US07351857B2
To a suspension of N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (1.57 g; 7.2 mmol) in CH2Cl2 (70 mL), cooled to −60° C., is added a solution of boron tribromide-CH2Cl2 (36 mL), dropwise to maintain the reaction temperature between −50 to −60° C. The gelatinous suspension is allowed to warm to RT and stir for 30 min. The reaction is cooled to 0° C., quenched with satd NaHCO3 and stirred for 30 min at RT. The mixture is extracted with CH2Cl2 (2×), the extracts combined, dried over Na2SO4, filtered and evaporated under reduced pressure to provide a crude solid, which was purified by flash chromatography (SiO2) eluting with a CH2Cl2-MeOH gradient to afford 1.13 g (76%) of N-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide as a beige solid.

reactant | N-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 7.2 mmol, 1.57 g | COC=1C=C2CCC(CC2=CC1)NC(C)=O | C13H17NO2
reactant | boron tribromide CH2Cl2 | 36 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | N-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 1.13 g, 76% | OC=1C=C2CCC(CC2=CC1)NC(C)=O | C12H15NO2
